US09034880B2
To a solution of 2,3,4,5-tetrahydro-2,6-dimethyl-1H-pyrido[4,3-b]indole (200 mg, 1.0 mmol) in NMP (2.5 ml), powdered KOH (561 mg, 10 mmol) was added and stirred for 10 min at 25 deg C. After which 2-(tri fluoromethyl)-5-vinylpyridine (346 mg, 2.0 mmol) was added slowly to the above solution and stirred for 16 h at 25 deg C. After completion of the reaction (monitored by LCMS), water (5 mL) was added to the crude and extracted with the ethyl acetate. The organic layer was dried and concentrated. The resulting crude was purified by reverse-phase chromatography (C-18, 500 mm×50 mm, Mobile Phase A=0.05% TFA in water, B=0.05% TFA in acetonitrile, Gradient: 10% B to 80% B in 30 min, injection vol. 5 mL) to obtain 40 mg (8.2%) of 5-(2-(6-(trifluoromethyl)pyridin-3-yl)ethyl)-2,3,4,5-tetrahydro-2,6-dimethyl-1H-pyrido[4,3-b]indole as TFA salt.

reactant | 2,3,4,5-tetrahydro-2,6-dimethyl-1H-pyrido[4,3-b]indole | 1.0 mmol, 200 mg | CN1CC2=C(NC=3C(=CC=CC23)C)CC1 | C13H16N2
reactant | KOH | 10 mmol, 561 mg | [OH-].[K+]
reactant | 2-(tri fluoromethyl)-5-vinylpyridine | 2.0 mmol, 346 mg | FC(C1=NC=C(C=C1)C=C)(F)F | C8H6F3N
reactant | water | 5 mL | O | H2O
solvent | NMP | 2.5 ml | CN1CCCC1=O | C5H9NO
product | 5-(2-(6-(trifluoromethyl)pyridin-3-yl)ethyl)-2,3,4,5-tetrahydro-2,6-dimethyl-1H-pyrido[4,3-b]indole | 40 mg, 8.2% | FC(C1=CC=C(C=N1)CCN1C2=C(C=3C=CC=C(C13)C)CN(CC2)C)(F)F | C21H22F3N3
